### PR TITLE
[Merged by Bors] - feat(Topology/ContinuousMap/CompactlySupported): turn a positive `Real`-linear functional into a `NNReal`-linear functional

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
Define `toNNRealLinear` that maps positive `Real`-linear functionals to `NNReal`-linear functionals and prove that it is injective.

---
- [x] depends on: #21205 for `comp_left`

Motivation: I use this to define `rieszMeasure` for `Real`-linear functional in #12290.

### CODE REVIEW

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 1]
```diff
@@ -541,6 +540,104 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+      RingHom.id_apply, ContinuousMap.coe_comp, Function.comp_apply]
+    rw [NNReal.smul_def, smul_eq_mul]
+    simp only [NNReal.coe_mul]
+
+@[simp]
+lemma toReal_apply (f : C_c(α, ℝ≥0)) (x : α) :
+    toReal f x = f x := rfl
+
+lemma nnreal_coe_eq_toReal (f : C_c(α, ℝ≥0)) :
+    (f : C_c(α, ℝ)) = toReal f := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:589]:
```suggestion
lemma coe_toReal (f : C_c(α, ℝ≥0)) :
    toReal f = (f : C_c(α, ℝ)) := rfl
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 2]
```diff
@@ -541,6 +540,104 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
 lemma nnrealPart_apply (f : C_c(α, ℝ)) (x : α) :
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+instance : Coe C(α, ℝ≥0) C(α, ℝ) where
+  coe := fun f => ⟨fun x => NNReal.toReal (f.toFun x), by continuity⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:544]: This strikes me as a perhaps surprising coercion. Could you at least write it using `ContinuousLinearMap.comp`?

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:544]: Could you elaborate why this is surprising? I thought it were natural because there is a coercion `(X → ℝ≥0) → (X → ℝ)`. Yet most probably this should be in another file

Comment (YaelDillies) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: > there is a coercion `(X → ℝ≥0) → (X → ℝ)`

Wait, where did you get that from? The following doesn't work:
```
import Mathlib

open scoped NNReal

example {X : Type*} (f : X → ℝ≥0) : X → ℝ := f
```

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: mmm sorry, I thought I had that coercion (and I thought I had done a test twice on Lean 4 web!) but you are right, it does not work. So should I not define the coercion?

Comment (YaelDillies) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: Yes, I think that coercion is a bad idea. Better write things explicitly in terms of `ContinuousLinearMap.comp`

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: I see, I removed the coercions

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 3]
```diff
@@ -541,6 +540,99 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+/-- The compactly supported continuous `ℝ≥0`-valued function as a compactly supported `ℝ`-valued
+function. -/
+noncomputable def toReal (f : C_c(α, ℝ≥0)) : C_c(α, ℝ) :=
+  ⟨ContinuousMap.coeNNRealReal.comp f, by
+                                       simp only [ContinuousMap.toFun_eq_coe,
+                                         ContinuousMap.coe_comp,
+                                         ContinuousMap.coeNNRealReal_apply, ContinuousMap.coe_coe]
+                                       apply HasCompactSupport.comp_left f.hasCompactSupport' rfl⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:550]: Can you write this in terms of `CompactlySupportedContinuousMap.comp`? 
```suggestion
noncomputable def toReal (f : C_c(α, ℝ≥0)) : C_c(α, ℝ) :=
  f.comp somethingNewHere
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 4]
```diff
@@ -541,6 +540,99 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+  map_add' f g := by
+    simp only [map_add]
+    exact rfl
+  map_smul' a f := by
+    simp only [map_smul, LinearMap.map_smul_of_tower, RingHom.id_apply, smul_eq_mul]
+    exact rfl
+
+@[simp]
+lemma toNNRealLinear_apply {Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ} (hΛ : ∀ f, 0 ≤ f.1 → 0 ≤ Λ f) (f : C_c(α, ℝ≥0)) :
+    toNNRealLinear hΛ f = (Λ (toReal f)) := rfl
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:612]: You tend to add extraneous brackets in your expressions. Could you please go through your PRs and make sure you don't have any such?
```suggestion
    toNNRealLinear hΛ f = Λ (toReal f) := rfl
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 5]
```diff
@@ -541,6 +540,99 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+lemma eq_toNNRealLinear_nnrealPart_sub {Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ}
+    (hΛ : ∀ f, 0 ≤ f.1 → 0 ≤ Λ f) (f : C_c(α, ℝ)) :
+    Λ f = toNNRealLinear hΛ (nnrealPart f)
+            - toNNRealLinear hΛ (nnrealPart (-f)) := by
+  simp only [toNNRealLinear_apply]
+  rw [← LinearMap.map_sub, ← LinearMap.coe_toReal, ← LinearMap.coe_toReal]
+  congr
+  ext x
+  simp only [coe_sub, Pi.sub_apply, LinearMap.toReal_apply, nnrealPart_apply, Real.coe_toNNReal',
+    coe_neg, Pi.neg_apply, max_zero_sub_max_neg_zero_eq_self]
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:623]: Any reason you're squeezing this simp? It's already terminal

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 6]
```diff
@@ -541,6 +540,99 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+                    simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_comp,
+                      ContinuousMap.coeNNRealReal_apply,
+                      CompactlySupportedContinuousMap.coe_toContinuousMap]
+                    exact HasCompactSupport.comp_left f.hasCompactSupport' (by rfl)⟩
+  map_add' f g := by
+    ext x
+    simp only [CompactlySupportedContinuousMap.coe_mk, ContinuousMap.comp_apply,
+      CompactlySupportedContinuousMap.coe_toContinuousMap, CompactlySupportedContinuousMap.coe_add,
+      Pi.add_apply, ContinuousMap.coeNNRealReal_apply, NNReal.coe_add, ContinuousMap.coe_comp,
+      Function.comp_apply]
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:576]: Same here

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 7]
```diff
@@ -541,6 +540,99 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+  map_smul' a f := by
+    ext x
+    simp only [CompactlySupportedContinuousMap.coe_mk, ContinuousMap.comp_apply,
+      CompactlySupportedContinuousMap.coe_toContinuousMap, CompactlySupportedContinuousMap.coe_smul,
+      Pi.smul_apply, smul_eq_mul, ContinuousMap.coeNNRealReal_apply,
+      RingHom.id_apply, ContinuousMap.coe_comp, Function.comp_apply]
+    rw [NNReal.smul_def, smul_eq_mul]
+    simp only [NNReal.coe_mul]
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:584]: and here too hopefully you can have a single terminal simp instead of all this

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 3 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: I'm not sure whether I understood what you mean. `CompactlySupportedContinuousMap.comp` makes the composition `g ∘ f` where `f : C_c(γ, δ)`, `g : β →co γ)`. Here we have ` f : C_c(α, ℝ≥0)` and `ContinuousMap.coeNNRealReal : ℝ≥0 → ℝ`.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 7 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:580]: here I have to `rw` first

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 6 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:572]: done

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 5 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:619]: left only `simp`

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 4 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: sorry. I hopefully removed all such brackets.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:550]: Sorry, I guess I'm not sure what the correct setup is, but you see that you're basically bundling the fact `HasCompactSupport.comp_left` into an operation on `C_c(_, _)`, right? My question is whether you can extract that out to a function that doesn't mention concrete types like `ℝ≥0` or `ℝ`. Maybe something of the form `C_c(β, γ) → (α →+ β) → C_c(α, γ)`.

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: ah I see. I added `comp_left`.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 8]
```diff
@@ -124,6 +123,15 @@ def ContinuousMap.liftCompactlySupported [CompactSpace α] : C(α, β) ≃ C_c(
...
   right_inv _ := rfl
 
+/-- Composition of a continuous function `f` with compact support with another continuous function
+`g` from the left yields another continuous function `g ∘ f` with compact support. -/
+def comp_left {γ : Type*} [TopologicalSpace γ] [Zero γ] {g : C(β, γ)} (f : C_c(α, β))
+    (hg : g 0 = 0) : C_c(α, γ) where
+  toContinuousMap := g.comp f
+  hasCompactSupport' := by
+    simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_comp, ContinuousMap.coe_coe]
+    exact HasCompactSupport.comp_left f.hasCompactSupport' hg
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:133]: Can you make this a separate PR?

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:133]: done.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 9]
```diff
@@ -641,6 +641,97 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
 lemma nnrealPart_apply (f : C_c(α, ℝ)) (x : α) :
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+/-- The compactly supported continuous `ℝ≥0`-valued function as a compactly supported `ℝ`-valued
+function. -/
+noncomputable def toReal (f : C_c(α, ℝ≥0)) : C_c(α, ℝ) :=
+  @f.compLeft _ _ _ _ _ _ _ _ ContinuousMap.coeNNRealReal
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:647]:
```suggestion
  f.compLeft ContinuousMap.coeNNRealReal
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 10]
```diff
@@ -641,6 +641,97 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+
+@[simp]
+lemma toReal_apply (f : C_c(α, ℝ≥0)) (x : α) :
+    f.toReal x = f x := by
+  have : ContinuousMap.coeNNRealReal 0 = 0 := rfl
+  rw [toReal, compLeft_apply this]
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:654]:
```suggestion
lemma toReal_apply (f : C_c(α, ℝ≥0)) (x : α) : f.toReal x = f x := compLeft_apply rfl
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 11]
```diff
@@ -641,6 +641,97 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+
+/-- The compactly supported continuous `ℝ≥0`-valued function as a compactly supported `ℝ`-valued
+function. -/
+noncomputable def LinearMap.toReal : C_c(α, ℝ≥0) →ₗ[ℝ≥0] C_c(α, ℝ) where
+  toFun := fun f => ⟨ContinuousMap.coeNNRealReal.comp f.1,
+                    by
+                    simp only [ContinuousMap.toFun_eq_coe, ContinuousMap.coe_comp,
+                      ContinuousMap.coeNNRealReal_apply,
+                      CompactlySupportedContinuousMap.coe_toContinuousMap]
+                    exact HasCompactSupport.comp_left f.hasCompactSupport' (by rfl)⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:669]:
```suggestion
  toFun f := f.compLeft ContinuousMap.coeNNRealReal
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 12]
```diff
@@ -641,6 +641,97 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+    ext x
+    simp
+  map_smul' a f := by
+    ext x
+    simp only [CompactlySupportedContinuousMap.coe_mk, ContinuousMap.comp_apply,
+      CompactlySupportedContinuousMap.coe_toContinuousMap, CompactlySupportedContinuousMap.coe_smul,
+      Pi.smul_apply, smul_eq_mul, ContinuousMap.coeNNRealReal_apply,
+      RingHom.id_apply, ContinuousMap.coe_comp, Function.comp_apply]
+    rw [NNReal.smul_def, smul_eq_mul]
+    simp
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:680]:
```suggestion
    simp [NNReal.smul_def]
```
works hopefully?

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 13]
```diff
@@ -641,6 +641,97 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+  rfl
+
+lemma eq_nnrealPart_neg_nnrealPart (f : C_c(α, ℝ)) :
+    f = (nnrealPart f).toReal - (nnrealPart (-f)).toReal := by
+  ext x
+  simp
+
+/-- The compactly supported continuous `ℝ≥0`-valued function as a compactly supported `ℝ`-valued
+function. -/
+noncomputable def LinearMap.toReal : C_c(α, ℝ≥0) →ₗ[ℝ≥0] C_c(α, ℝ) where
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:663]:
```suggestion
noncomputable def toRealLinearMap : C_c(α, ℝ≥0) →ₗ[ℝ≥0] C_c(α, ℝ) where
```
or something like that

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 14]
```diff
@@ -641,6 +641,83 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+/-- The compactly supported continuous `ℝ≥0`-valued function as a compactly supported `ℝ`-valued
+function. -/
+noncomputable def toRealLinearMap : C_c(α, ℝ≥0) →ₗ[ℝ≥0] C_c(α, ℝ) where
+  toFun f := f.compLeft ContinuousMap.coeNNRealReal
+  map_add' f g := by
+    ext x
+    simp
+  map_smul' a f := by
+    ext x
+    simp [NNReal.smul_def]
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:666]:
```suggestion
  toFun := toReal f
  map_add' f g := by ext x; simp
  map_smul' a f := by ext x; simp [NNReal.smul_def]
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 15]
```diff
@@ -641,6 +641,83 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+  simp
+
+/-- For a positive linear functional `Λ : C_c(α, ℝ) → ℝ`, define a `ℝ≥0`-linear map. -/
+noncomputable def toNNRealLinear {Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ} (hΛ : ∀ f, 0 ≤ f → 0 ≤ Λ f) :
+    C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0 where
+  toFun := fun f => ⟨Λ (LinearMap.toReal f),
+                    by
+                    apply hΛ (LinearMap.toReal f)
+                    intro x
+                    simp⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:684]:
```suggestion
  toFun f := ⟨Λ (LinearMap.toReal f), hΛ (LinearMap.toReal f) <| by simp⟩
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 16]
```diff
@@ -641,6 +641,83 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+lemma LinearMap.toReal_apply (f : C_c(α, ℝ≥0)) (x : α) :
+    LinearMap.toReal f x = (f x).toReal := rfl
+
+lemma LinearMap.coe_toReal (f : C_c(α, ℝ≥0)) :
+    LinearMap.toReal f = f.toReal := by
+  ext x
+  simp
+
+/-- For a positive linear functional `Λ : C_c(α, ℝ) → ℝ`, define a `ℝ≥0`-linear map. -/
+noncomputable def toNNRealLinear {Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ} (hΛ : ∀ f, 0 ≤ f → 0 ≤ Λ f) :
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:678]:
```suggestion
noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀ f, 0 ≤ f → 0 ≤ Λ f) :
```
to avoid proofs being elided in the infoview

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 17]
```diff
@@ -641,6 +641,83 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+    Λ f = toNNRealLinear hΛ (nnrealPart f)
+            - toNNRealLinear hΛ (nnrealPart (-f)) := by
+  simp only [toNNRealLinear_apply]
+  rw [← LinearMap.map_sub, ← LinearMap.coe_toReal, ← LinearMap.coe_toReal]
+  congr
+  ext x
+  simp
+
+lemma toNNRealLinear_eq_iff {Λ₁ Λ₂ : C_c(α, ℝ) →ₗ[ℝ] ℝ} (hΛ₁ : ∀ f, 0 ≤ f → 0 ≤ Λ₁ f)
+    (hΛ₂ : ∀ f, 0 ≤ f → 0 ≤ Λ₂ f) : Λ₁ = Λ₂ ↔ toNNRealLinear hΛ₁ = toNNRealLinear hΛ₂ := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:711]:
```suggestion
@[simp] lemma toNNRealLinear_inj {Λ₁ Λ₂ : C_c(α, ℝ) →ₗ[ℝ] ℝ} (hΛ₁ hΛ₂) :
    toNNRealLinear Λ₁ hΛ₁ = toNNRealLinear Λ₂ hΛ₂ ↔ Λ₁ = Λ₂ := by
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 18]
```diff
@@ -641,6 +641,75 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+
+lemma eq_nnrealPart_neg_nnrealPart (f : C_c(α, ℝ)) :
+    f = (nnrealPart f).toReal - (nnrealPart (-f)).toReal := by
+  ext x
+  simp
+
+/-- The compactly supported continuous `ℝ≥0`-valued function as a compactly supported `ℝ`-valued
+function. -/
+noncomputable def toRealLinearMap : C_c(α, ℝ≥0) →ₗ[ℝ≥0] C_c(α, ℝ) where
+  toFun := toReal f
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:660]:
```suggestion
  toFun := toReal
```
whoops

**Review by YaelDillies — APPROVED** [review]
I pushed a hopefully final golf. If you're happy with it, let's merge!

maintainer delegate

**Comment by yoh-tanimoto** [comment]
thank you very much for your reviews and suggestions!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
